US08975398B2
N-{4-[1-(2,2-dimethylpropyl)-1H-pyrazol-4-yl]phenyl}-1-(pyridazin-3-yl)azetidine-3-carboxamide
The title compound was prepared as described in Example 148A, substituting 1-neopentyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole and N-(4-bromophenyl)-1-(pyridazin-3-yl)azetidine-3-carboxamide for 4-bromoaniline. 1H NMR (500 MHz, DMSO-d6) δ ppm 10.14 (s, 1H), 8.57 (dd, J=4.5, 1.2 Hz, 1H), 8.05 (s, 1H), 7.82 (s, 1H), 7.66-7.58 (m, 2H), 7.55-7.51 (m, 2H), 7.48 (dd, J=9.1, 4.5 Hz, 1H), 6.98 (dd, J=9.1, 1.1 Hz, 1H), 4.30 (t, J=8.6 Hz, 2H), 4.22 (dd, J=8.4, 6.0 Hz, 2H), 3.90 (s, 2H), 3.77 (tt, J=8.6, 5.9 Hz, 1H), 0.92 (s, 9H); MS (ESI(+)) m/e 391 (M+H)+.

reactant | 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
reactant | N-(4-bromophenyl)-1-(pyridazin-3-yl)azetidine-3-carboxamide | BrC1=CC=C(C=C1)NC(=O)C1CN(C1)C=1N=NC=CC1 | C14H13BrN4O
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
product | N-{4-[1-(2,2-dimethylpropyl)-1H-pyrazol-4-yl]phenyl}-1-(pyridazin-3-yl)azetidine-3-carboxamide | CC(CN1N=CC(=C1)C1=CC=C(C=C1)NC(=O)C1CN(C1)C=1N=NC=CC1)(C)C | C22H26N6O
